US07723333B2
3-{3-[(2-tert-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propoxy}benzoic acid
The title compound was prepared from 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate and 3-hydroxybenzoic acid in a similar manner as described for Example 12. 1H NMR (500 MHz, d8-THF): δ 7.62-7.58 (d, 1H), 7.57-7.51 (m, 2H), 7.49 (s, 1H), 7.46-7.42 (m, 3H), 7.31 (t, 1H), 7.30 (t, 1H), 6.51 (t, 1H), 3.82 (t, 2H), 3.14-3.08 (m, 2H), 1.83-1.78 (m, 2H), 1.70 (s, 9H); 13C NMR (125 MHz, d8-THF): δ 166.7, 159.8, 158.9, 135.5, 132.5, 131.9, 129.2, 129.1, 128.4, 126.4, 122.1, 119.1, 114.9, 106.9, 65.6, 60.4, 41.3, 29.0, 26.9; Mass Spectrum: M+H+ 459.

reactant | 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C23H28N2O6S2
reactant | 3-hydroxybenzoic acid | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
product | 3-{3-[(2-tert-Butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propoxy}benzoic acid | C(C)(C)(C)N1S(C(=C(C1=O)NCCCOC=1C=C(C(=O)O)C=CC1)C1=CC=CC=C1)(=O)=O | C23H26N2O6S
